US07902197B2
A solution of impure 2,2-dimethyl-1-[2-phenoxy-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one, prepared according to general procedures as described in these Examples, (0.032 g, “0.075 mmol”) in 1 mL of dichloromethane and 1 mL of trifluoroacetic acid was stirred for 13 h, then concentrated to a yellow-green oil, which was partitioned between 5 mL of a sat. aq. NaHCO3 solution and 5 mL of dichloromethane. The aqueous layer was extracted with 5 mL of dichloromethane, and the combined organic layers were dried over MgSO4, filtered and concentrated to a pale yellow oil. The oil was dissolved in 1 mL of ethanol and treated with sodium acetate trihydrate (0.103 g, 0.756 mmol). The mixture was stirred for 2 h, then concentrated. The residue was partitioned between 5 mL of water and 5 mL of dichloromethane. The aqueous layer was extracted with 5 mL of dichloromethane, and the combined organic layers were dried over MgSO4, filtered and concentrated to a pale yellow oil. The oil was again dissolved in 1 mL of ethanol and treated with sodium acetate trihydrate (0.101 g, 0.745 mmol). The mixture was stirred for 4 h, then concentrated. The residue was partitioned between 5 mL of water and 5 mL of dichloromethane. The aqueous layer was extracted with 5 mL of dichloromethane, and the combined organic layers were dried over MgSO4, filtered and concentrated to an off-white solid. Column chromatography (0→33% EtOAc/hexanes) afforded 0.014 g (65% from impure; 40% 2-step) of 2,2-dimethyl-1-(2-phenoxy-5H-pyrrolo[2,3-b]pyrazin-7-yl)-propan-1-one as an off-white solid.

reactant | 2,2-dimethyl-1-[2-phenoxy-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | CC(C(=O)C1=CN(C2=NC=C(N=C21)OC2=CC=CC=C2)COCC[Si](C)(C)C)(C)C | C23H31N3O3Si
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium acetate trihydrate | 0.756 mmol, 0.103 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium acetate trihydrate | 0.745 mmol, 0.101 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-1-(2-phenoxy-5H-pyrrolo[2,3-b]pyrazin-7-yl)-propan-1-one | 0.014 g | CC(C(=O)C1=CNC2=NC=C(N=C21)OC2=CC=CC=C2)(C)C | C17H17N3O2
